datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:81]([CH-:10][N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)=[O:82])C=C1.C1CC[C:21](=[O:20])C1>>C1=CC=C([C:81]([CH:10]([O:20][C-:21]2CCCC2)[N+:71]2=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]2)=[O:82])C=C1 10=20;20,21=21"
"CC(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC(C)[C:11]([CH2:10][CH:20]([C:21]1=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]1=[O:32])[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1.C[N:12]1C2=C(C=CC=C2)[S:62]/[C:11]1=[CH:10]/C1=CC=CC=C1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[C:11]2=[N+:12](C)C3=C(C=CC=C3)[S:62]2)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)O/[C:11](=[CH:10]/[N:61]=[C:62](C1=CC=CC=C1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]1)[O-:12].CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([C:11](OC(C)(C)C)=[O:12])[N:61]=[C:62](C2=CC=CC=C2)[C:63]2=[CH:64][CH:65]=[CH:66][CH:85]=[CH:84]2)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C/[CH:63]=[CH:62]\[CH:11]=[CH2:10].[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C/[CH:63]=[CH:62]\[CH+:11][CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10,11=10,20"
"Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1.[CH2:10]=[N+:11]([O-:12])[O-:62]>>Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1.[CH2:10]([N+:11](=[O:12])[O-:62])[Cl:20] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC(C)=C([N+:63]2=[C:62](/[C:11](=[C:10](\C)C3=CC=CC=C3)[O-:12])[N:73](C3=C(C)C=C(C)C=C3C)[CH2:65][CH2:64]2)C(C)=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10](C)(C2=CC=CC=C2)[C:11](=[O:12])[C:62]2=[N+:63](C3=C(C)C=C(C)C=C3C)[CH2:64][CH2:65][N:73]2C2=C(C)C=C(C)C=C2C)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si](C)(C)O[N:12](O[Si](C)(C)C)[C:11](C)=[CH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C:11](C)=[N+:12](O[Si](C)(C)C)O[Si](C)(C)C)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>C[Si:63](C)(C)[O+:12]=[C:11]([CH2:10][CH:20]1C=CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[O:33][C:22](/[N:21]=[CH:20]/C1=CC=CC=C1)=[O:23].CC(C)[C@H]1CC[N:12]2C3=C(C=CC=C3)[S:62][C:11]2=[N:10]1>>CC(C)[C@H]1CC[N+:12]2=[C:11]([N:10]1[CH:20](C1=CC=CC=C1)[N:21]=[C:22]([O-:23])[O:33]C(C)(C)C)[S:62]C1=C2C=CC=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1.C[N:61](C)[NH2:10]>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH2+:10][N:61](C)C)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10=20;20,21=21,22;22,23=23"
"CC1=CC=[C:10]([B-:11]2(C3=CC=C(C(F)(F)F)C=C3)[O:12]C(C)(C)C(C)(C)[O:62]2)S1.O=[N+]([O-])[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CC1(C)C(C)(C)[O:62][B-:11](C2=CC=C(C(F)(F)F)C=C2)=[O+:12]1.CC1=CC=[C:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)S1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCCC2)C=C1.C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>C[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10,11=10,20;12=11,12"
"C1CCN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)C1.C=C(C)C[C:11](C)=[CH2:10]>>C=C(C)C[C+:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N2CCCC2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N2CCCC2)[CH:45]=[CH:46]1 10,11=10,20"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.[OH2:10]>>C1C[O:33][C:22]([O-:23])=[CH:21][CH:20]1[OH2+:10] 10=20;20,21=21,22;22,23=23"
